US08466282B2
1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-indole-2-carboxamide hydrochloride
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (83.4 mg) was dissolved in 4N hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was concentrated to give the object product (67 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-indol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 83.4 mg | COCCCCN1C(=CC2=CC=CC=C12)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50N4O6
reactant | hydrogen chloride-ethyl acetate | 4N, 3 ml | C(C)(=O)OCC.Cl
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-indole-2-carboxamide hydrochloride | 67 mg | Cl.COCCCCN1C(=CC2=CC=CC=C12)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | InChI=1S/C28H42N4O4.ClH/c1-21(2)20-32(24-16-23(18-29-19-24)27(33)30-11-14-36-15-12-30)28(34)26-17-22-8-4-5-9-25(22)31(26)10-6-7-13-35-3;/h4-5,8-9,17,21,23-24,29H,6-7,10-16,18-20H2,1-3H3;1H/t23-,24+;/m1./s1
